US07700634B2
To a solution of 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid amide (500 mg, 1.75 mmol) in toluene (4 ml) was added 1,3-dichloroacetone (333 mg, 2.62 mmol) and the reaction mixture subjected to microwave irradiation at 150° C. for 30 minutes. The resulting black solution was diluted with dichloromethane (50 ml) and washed with 5% aqueous sodium carbonate solution (5×20 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo. The resulting brown oil was purified by flash column chromatography using 5% (v/v) acetone in petroleum ether 40-60 to give 3-(4-chloromethyl-oxazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (510 mg, 1.42 mmol) as a white solid.

reactant | 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid amide | 1.75 mmol, 500 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)N | C17H22N2O2
reactant | 1,3-dichloroacetone | 2.62 mmol, 333 mg | ClCC(=O)CCl | C3H4Cl2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(4-chloromethyl-oxazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 1.42 mmol, 510 mg | ClCC=1N=C(OC1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H23ClN2O2
